Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
episodes of left face, arm and leg tingling and numbness 
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
___ is a lovely ___ woman with past medical history
of diabetes type 2 on metformin, diet controlled hyperlipidemia,
presenting to the ED for evaluation of intermittent episodes of
left arm weakness, numbness radiating from her left face down to
her fingers, leg, toes. Neurology consulted to assess for TIA.

These episodes consist of left face, arm, leg weakness and
numbness radiating down to her fingers and toes.  She reports 
the
initial episode occurred 4 days ago at 2 ___ when she felt weak
over her left face down her arm, and her left leg.  This
sensation lasted several seconds, initially she thought was
hypoglycemic so she drank some juice, checked her sugar which 
was
normal.  Since then she has had several episodes lasting seconds
to a minute with associated numbness, and pins and needle
sensation.  Two days after the initial episode, she had another
similar episode this time with significant left leg weakness as
if she it would give out, so she held on to the railing.  After
this episode she called her PCP who had initially ordered a
carotid ultrasound which is scheduled for ___.  However, she
had recurrence of her symptoms today.  During the episode this
morning she remembers feeling dizzy with a blood pressure
measured 166/86 which is high for her.  She also felt
lightheaded, with associated left face, arm, leg numbness like
novocaine, as well as weakness.  She reports sensation of pins
and needles, followed by weakness lasting ___ minutes which
resolved spontaneously but the sensation of pins and needles
lasted for about an hour. She decided to go to ___ for
evaluation and was transferred to ___ given that the 
MRI
machine was nonfunctional.  

She denies headache denies visual symptoms she does complain of
weakness with needing to grab onto the hand railing at work.
Otherwise she denies fevers, chills, nausea, vomiting.  She has
been checking her fingersticks and they have been ranging 
between
120s and 140s initially she was concerned that the results of 
her
change in medication as she is been using metformin since
___

On neurologic review of systems, the patient denies confusion.
Denies difficulty with producing or comprehending speech. Denies
loss of vision, blurred vision, diplopia, vertigo, tinnitus,
hearing difficulty, dysarthria, or dysphagia. Denies loss of
sensation. Denies bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.

 
Past Medical History:
DM 
HLD initially on Crestor but insurance not covering so she
decided to manage with diet
GERD
Uterine fibroids removed at years old
 
Social History:
___
Family History:
Father with hypertension died ___ years ago.  
Mother with uterine cancer now ___ years in remission.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 
97.9 
81 
151/66 
18 
100% RA

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: Breathing unlabored on room air
Abdomen: Soft
Extremities: Warm, no edema

Neurologic Examination: (Intact)
Mental status: Awake, alert, oriented x 3. Able to relate 
history
without difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

Cranial Nerves: PERRL 2.5->2mm brisk. VF full to confrontation.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

Motor: Normal bulk and tone. No drift. No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

Sensory - No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

DISCHARGE PHYSICAL EXAM
Vitals within normal limits 

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: Breathing unlabored on room air
Abdomen: Soft
Extremities: Warm, no edema

Neurologic Examination: 
Notable for somewhat brisk reflexes, mild bilateral UMN weakness 


Mental status: Awake, alert, oriented x 3. Able to relate 
history
without difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

Cranial Nerves: PERRL 2.5->2mm brisk. VF full to confrontation.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

Motor: Normal bulk and tone. No drift. No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___  
Infraspinatus 
L  5    ___   ___  4+   5   4+  5     5     5-     4+
R  5    ___   ___  4+   5   4+  5     5     5-     4+

Sensory - No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

DTRs:
  ___ Tri ___ Pat Ach
L 2+  2+  2    3   2
R 2+  2+  2    3   2
Crossed adductor response present 
Plantar response flexor bilaterally.

Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg. Negative 
unterberger test. 
 
Pertinent Results:
LABORATORY STUDIES 

___ 06:35AM BLOOD WBC-6.5 RBC-4.45 Hgb-12.3 Hct-37.7 MCV-85 
MCH-27.6 MCHC-32.6 RDW-13.2 RDWSD-40.8 Plt ___
___ 04:30PM BLOOD Neuts-54.0 ___ Monos-5.6 Eos-1.0 
Baso-0.3 Im ___ AbsNeut-3.76 AbsLymp-2.70 AbsMono-0.39 
AbsEos-0.07 AbsBaso-0.02
___ 06:35AM BLOOD Glucose-143* UreaN-13 Creat-0.7 Na-141 
K-4.5 Cl-103 HCO3-25 AnGap-18
___ 06:35AM BLOOD Calcium-9.3 Phos-4.1 Mg-1.9 Cholest-251*
___ 06:35AM BLOOD %HbA1c-7.2* eAG-160*
___ 06:35AM BLOOD Triglyc-153* HDL-45 CHOL/HD-5.6 
LDLcalc-175*
___ 04:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:35AM BLOOD TSH-3.7

*************
IMAGING STUDIES 

MRI head w/o contrast ___
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction. The ventricles and sulci are normal 
in caliber and 
configuration. The major intracranial vascular flow voids are 
preserved. There is trace ethmoid air cell mucosal thickening 
and mild rightward nasal septum deviation. 
IMPRESSION:  
No evidence of infarction or hemorrhage. 

CTA Head/Neck ___. No evidence of acute infarction or hemorrhage. 
2. Moderate to severe luminal narrowing of the P1 segment of the 
left 
posterior cerebral artery. 
3. Severe narrowing of the P2 segment of the right posterior 
cerebral artery. 
4. Moderate narrowing at the origin of the left vertebral 
artery. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with past medical history 
of diabetes type 2 on metformin, diet controlled hyperlipidemia, 
presenting to the ED for evaluation of intermittent episodes of 
left arm weakness and numbness radiating from her left face down 
to her fingers, leg, toes. Initially admitted due to concern for 
possible stroke vs TIA, but details of history (timeline, 
multiple recurrent brief events, neck pain, lack of neighborhood 
neurologic signs) pointed away from infarction. She underwent 
MRI Brain, which was without stroke or abnormality. 

Suspicion for transient ischemic attack was low. Exam was 
notable for mild likely cervical myelopathy, which can cause 
symptoms as above. Other possibilities are migraine variant or 
new sensory seizures (unlikely given hx). Further outpatient 
evaluation was planned.

Transitional Issues
- Outpatient Neurology follow-up
- Outpatient MRI C-spine to evaluate for spondylosis
- Outpatient EEG
- Aspirin 81mg was continued due to vascular risk factor of 
diabetes
- Atorvastatin 40mg daily started due to vascular risk factor of 
hyperlipidemia 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Ranitidine 75 mg PO BID 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*1 
2.  Aspirin 81 mg PO DAILY  
3.  MetFORMIN (Glucophage) 1000 mg PO BID  
4.  Ranitidine 75 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left hemibody sensory symptoms, likely ___ cervical spondylosis, 
possible sensory seizures vs migraine variant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
   ___ were hospitalized at ___ for multiple events of 
numbness and possible weakness of your left body.  ___ were 
admitted to the neurology service and evaluated.  Your 
neurologic examination was reassuring.  ___ underwent Brain MRI 
which did not show any abnormality and did NOT show anything 
suggestive of a stroke.
    The exact cause of your symptoms needs to be fully 
determined, but dangerous or life threatening causes have been 
ruled out.  One possibility would be small seizures, but this 
would be unusual to start in such a way (and with a normal MRI.  
Another possibility is that your symptoms were due to arthritic 
in the neck, which can sometime irritate the spinal cord and 
cause symptoms similar to yours (Including face symptoms!).  
Both of these things should be evaluated further on an 
outpatient basis.  Your doctors have ordered ___ and MRI of your 
Neck (Cervical Spine) and an outpatient EEG (study looking for 
evidence of seizures)
    These things were felt to be safe and reasonable to work-up 
on an outpatient basis.  Fortunately, ___ did very well and were 
felt to be safe to discharge home.
    It was a pleasure taking care of ___,
Your ___ Care Team.
 
Followup Instructions:
___